US07776857B2
In a nitrogen purged 75 mL sealed tube, dissolved 2,4-dimethoxybenzylamine hydrochloride (2.54 g, 12.5 mmol), cesium carbonate (4.06 g, 12.5 mmol) in tBuOH (15 mL). Added 1-chloro-4-phenylphthalazine (2.0 g, 8.31 mmol)and the tube was stirred at 100° C. for 17 h. The tube was cooled to RT, and the mixture was concentrated in vacuo. Dissolved the crude material in DCM, and filtered the solution to remove cesium carbonate. Performed silica gel chromatography using 0-100% EtOAc/Hex and concentrated to yield N-(2,4-dimethoxybenzyl)-4-phenylphthalazin-1-amine as orange oil. MS [M+H]=372; Calc'd 371.4 for C23H21N3O2.

reactant | 2,4-dimethoxybenzylamine hydrochloride | 12.5 mmol, 2.54 g | Cl.COC1=C(CN)C=CC(=C1)OC
reactant | cesium carbonate | 12.5 mmol, 4.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-chloro-4-phenylphthalazine | 8.31 mmol, 2.0 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | tBuOH | 15 mL | CC(C)(C)O | C4H10O
product | N-(2,4-dimethoxybenzyl)-4-phenylphthalazin-1-amine | COC1=C(CNC2=NN=C(C3=CC=CC=C23)C2=CC=CC=C2)C=CC(=C1)OC | C23H21N3O2
